US03988373
A solution of [1-methyl-3-(2,6,6-trimethyl-2-cyclohexenyl)-2(trans)-propenyl]dimethyl(2-bromoethyl)ammonium bromide (1 g) and potassium iodide (0.54 g) in a mixed solvent of ethanol (5 cc) and water (5 cc) was stirred for 30 minutes at room temperature, and the reaction mixture was concentrated under reduced pressure. The residue was extracted with chloroform, and the solvent of the chloroform layer was distilled off. To the residue was added benzene, and the benzene layer was concentrated to dryness. The residue was recrystallized from a mixed solvent of acetonitrile and ether to give orange crystals (1.0 g) of [1-methyl-3-(2,6,6-trimethyl-2-cyclohexenyl)-2(trans)-propenyl]dimethyl(2-bromoethyl)ammonium iodide, m.p. 149°-151° C.

reactant | [1-methyl-3-(2,6,6-trimethyl-2-cyclohexenyl)-2(trans)-propenyl]dimethyl(2-bromoethyl)ammonium bromide | 1 g | [Br-].CC(\C=C\C1C(=CCCC1(C)C)C)[N+](CCBr)(C)C
reactant | potassium iodide | 0.54 g | [I-].[K+]
reactant | ethanol | 5 cc | C(C)O | C2H6O
solvent | water | 5 cc | O | H2O
product | [1-methyl-3-(2,6,6-trimethyl-2-cyclohexenyl)-2(trans)-propenyl]dimethyl(2-bromoethyl)ammonium iodide | 1.0 g | [I-].CC(\C=C\C1C(=CCCC1(C)C)C)[N+](CCBr)(C)C | InChI=1S/C17H31BrN.HI/c1-14-8-7-11-17(3,4)16(14)10-9-15(2)19(5,6)13-12-18;/h8-10,15-16H,7,11-13H2,1-6H3;1H/q+1;/p-1/b10-9+;
